US09145414B2
In accordance with Example 9 (Steps 1 and 2), 6-methyl-4-nitro-1H-indole was used instead of 4-nitro-1H-indole, and methyl iodide was used instead of ethyl bromide-d5 to obtain 1,6-dimethyl-1H-indol-4-amine.

reactant | 6-methyl-4-nitro-1H-indole | CC1=CC(=C2C=CNC2=C1)[N+](=O)[O-] | C9H8N2O2
reactant | methyl iodide | CI | CH3I
product | 1,6-dimethyl-1H-indol-4-amine | CN1C=CC=2C(=CC(=CC12)C)N | C10H12N2
